US07868188B2
N-[5-(5-Benzenesulfonylamino-6-chloropyridin-3-yl)-4-methyl-1,3-thiazol-2-yl]-6-chloronicotinamide
Using an analogous method to that described in Example 51, N-[5-(2-amino-4-methyl-1,3-thiazol-5-yl)-2-chloropyridin-3-yl]benzenesulfonamide was reacted with 6-chloronicotinoyl chloride. The reaction product was purified by preparative HPLC (Method A) to give the title product (retention time 8.5 minutes); 1H NMR Spectrum: (DMSO-d6+D2O) 8.58 (2H, dd); 8.44 (1H, d); 8.02 (3H, d); 7.86 (1H, t); 7.71 (2H, t); 7.51 (2H, d); 2.28 (3H, s); Mass Spectrum: M+H+ 520.

reactant | N-[5-(2-amino-4-methyl-1,3-thiazol-5-yl)-2-chloropyridin-3-yl]benzenesulfonamide | NC=1SC(=C(N1)C)C=1C=C(C(=NC1)Cl)NS(=O)(=O)C1=CC=CC=C1 | C15H13ClN4O2S2
reactant | 6-chloronicotinoyl chloride | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
product | N-[5-(5-Benzenesulfonylamino-6-chloropyridin-3-yl)-4-methyl-1,3-thiazol-2-yl]-6-chloronicotinamide | C1(=CC=CC=C1)S(=O)(=O)NC=1C=C(C=NC1Cl)C1=C(N=C(S1)NC(C1=CN=C(C=C1)Cl)=O)C | C21H15Cl2N5O3S2
